US07576218B2
In a 25 mL flask was added 455 mg of 4-(4-chloro-phenyl)-piperidine-4-carbonitrile (2.06 mmol, 1.0 equiv), 500 mg of (4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid (2.06 mmol, 1.00 equiv), 1.10 g of BOP (2.47 mmol, 1.2 equiv), 1.15 mL TEA (8.24 mmol, 4.00 equiv) and 6 mL NMP. A stir bar was placed in the flask and the reaction solution was stirred overnight at room temperature under N2 atmosphere. The crude product was purified by normal phase HPLC (EtOAc-hexane as the eluent) to yield 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carbonitrile: MS (ES) M+H expected=445.3, found=445.1.

reactant | 4-(4-chloro-phenyl)-piperidine-4-carbonitrile | 2.06 mmol, 455 mg, 1.0 equiv | ClC1=CC=C(C=C1)C1(CCNCC1)C#N | C12H13ClN2
reactant | (4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | 2.06 mmol, 500 mg, 1.00 equiv | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
reactant | BOP | 2.47 mmol, 1.10 g, 1.2 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | NMP | 6 mL | CN1CCCC1=O | C5H9NO
product | 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carbonitrile | ClC=1C(=NN(C1C)CC(=O)N1CCC(CC1)(C#N)C1=CC=C(C=C1)Cl)C(F)(F)F | C19H17Cl2F3N4O
